US05233023
Preparation of Tetrabenzyl Pyrophosphate
A flask fitted with a nitrogen inlet, overhead stirrer, teflon-coated thermocouple probe, and pressure-equalizing addition funnel was charged with 350 milliliters of dry (water content ≤50 μg/mL), peroxide-free tetrahydrofuran, followed by 50.0 grams (174 millimoles) of dibenzylphosphoric acid (DBP), and the resulting mixture was stirred until the solid dissolved (about 10-15 minutes). A solution of 18.9 grams (91.6 millimoles) of dicyclohexylcarbodiimide (DCC) in 215 milliliters of THF was added from the addition funnel to a stirred, cooled (water-bath) solution of DBP at a rate to maintain the temperature at about 20°-25° C. The reaction is slightly exothermic and the addition took about 30 minutes. Within minutes, a precipitate of dicyclohexylurea formed in the mixture. Stirring was continued for about 2 hours at 20°-25° C. The reaction was monitored by HPLC assay using VYDAC C-18 (300A, 4.6×250 mm) column with water (0.02M KH2PO4) acetonitrile as eluent. The reaction was complete in about 1 hour (assay showing <2 percent unreacted DBP). The mixture was then filtered while excluding moisture to remove dicyclohexylurea. The filter cake was washed with two 25 milliliter portions of THF. The solution when assayed by HPLC showed 45.9 grams (98 percent) yield of tetrabenzyl pyrophosphate (TBPP) in 620 milliliters of THF (0.137M). The filtrate was then stored at 0° C. with exclusion of moisture until the next step.

reactant | DBP | C(C1=CC=CC=C1)OP(OCC1=CC=CC=C1)(O)=O | C14H15O4P
solvent | water | 0.02M | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | Tetrabenzyl Pyrophosphate | O(P(OCC1=CC=CC=C1)(=O)OP(=O)(OCC1=CC=CC=C1)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C28H28O7P2
